US05858995
To a solution of 3-bromo-2-methyl-7-nitrobenzo[b]furan (300 mg) and acetic acid (776 mg) in a mixture of ethanol (6 ml) and dioxane (1.5 ml) was added iron (722 mg) at 50° C. The mixture was refluxed for 1.5 hours and the insoluble material was filtered off. The filtratate was evaporated in vacuo with toluene. The residue was extracted with a mixture of ethyl acetate and saturated aqueous sodium bicarbonate. The organic layer was separated and it was extracted with ethyl acetate from aqueous layer. The organic layer was combined and washed with saturated aqueous sodium bicarbonate, brine, dried over sodium sulfate, and evaporated in vacuo to give 7-amino-3-bromo-2-methylbenzo[b]furan (262 mg) as a white solid.

reactant | 3-bromo-2-methyl-7-nitrobenzo[b]furan | 300 mg | BrC=1C2=C(OC1C)C(=CC=C2)[N+](=O)[O-] | C9H6BrNO3
reactant | acetic acid | 776 mg | C(C)(=O)O | C2H4O2
solvent | ethanol | 6 ml | C(C)O | C2H6O
solvent | dioxane | 1.5 ml | O1CCOCC1 | C4H8O2
catalyst | iron | 722 mg | [Fe] | Fe
product | 7-amino-3-bromo-2-methylbenzo[b]furan | 262 mg | NC1=CC=CC2=C1OC(=C2Br)C | C9H8BrNO
